US06855710B2
b) 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone
35.0 g (0.2 mol) of 1-acetyl-2-indolinone are dissolved in 300 ml of acetic anhydride and after the addition of 135 g (0.6 mol) of triethyl orthobenzoate the mixture is refluxed for 22 hours. The solvent is distilled off and the residue diluted with petroleum ether. After 18 hours' standing at ambient temperature, the crystalline precipitate is suction filtered, washed and dried.

reactant | 1-acetyl-2-indolinone | 0.2 mol, 35.0 g | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | triethyl orthobenzoate | 0.6 mol, 135 g | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | acetic anhydride | 300 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
